US05096893
Preparation of Hydroxypropyl-β-cyclodextrin
β-Cyclodextrin (500 g hydrate, i.e., 432 g anhydous, 0.382 mole) was as above dissolved in a solution of sodium hydroxide (45 g, 1.1 mole in 750 mL distilled water, i.e., 5.7% W/W) and under the same conditions as above treated with propylene oxide (260 mL, 217 g, 3.73 mole). The reaction mixture was left for five hours in an ice bath and kept at room temperature for two days. After processing similar to that described above and including extraction of oligopropylene glycols with acetone a white powder of hydroxypropyl-β-cyclodextrin (490 g) was obtained.

reactant | β-Cyclodextrin | 0.382 mole, 500 g | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | sodium hydroxide | 1.1 mole, 750 mL, 45 g | [OH-].[Na+]
reactant | propylene oxide | 3.73 mole, 260 mL, 217 g | C1C(C)O1 | C3H6O
product | Hydroxypropyl-β-cyclodextrin | CC(COC[C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)O)O)O | C63H112O42
